US04968790
3-(Hexadecyloxy)-2-methoxypropyl phenyl phosphorochloridate
A 1 mmol portion of 3-(hexadecyloxy)-2-methoxy propanol is added to a 0°-5° C. solution of 1 mmol of phenyl dichlorophosphate in 2 ml of anhydrous dichloromethane containing 1.2 mmol of triethylamine. The mixture is stirred under argon for 1 hour at 5° C., then for 2.5 hours at room temperature and then used as is.

reactant | 3-(hexadecyloxy)-2-methoxy propanol | C(CCCCCCCCCCCCCCC)OCC(CO)OC | C20H42O3
reactant | phenyl dichlorophosphate | 1 mmol | P(=O)(OC1=CC=CC=C1)(Cl)Cl | C6H5Cl2O2P
reactant | dichloromethane | 1.2 mmol, 2 ml | ClCCl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(Hexadecyloxy)-2-methoxypropyl phenyl phosphorochloridate | P(OCC(COCCCCCCCCCCCCCCCC)OC)(OC1=CC=CC=C1)(=O)Cl | C26H46ClO5P
